US05082954
3-[1-(Acetamido)tridecyl]-5-trimethylsilylfuran
Acetic anhydride (0.1 ml) was added to a solution of 3-(1-aminotridecyl)-5-trimethylsilylfuran (89.8 mg, 0.27 mmol) and triethylamine (0.1 ml) in dichloromethane (1 ml) at room temperature. Stirring was continued overnight (14 hours) while the cooling bath attained room temperature. The residue, after solvent removal, was purified by preparative TLC (20×20 cm, 1000u; developed with 60% ethyl ether/hexane). The title amid was obtained as a pale yellow oil.

reactant | Acetic anhydride | 0.1 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 3-(1-aminotridecyl)-5-trimethylsilylfuran | 0.27 mmol, 89.8 mg | NC(CCCCCCCCCCCC)C1=COC(=C1)[Si](C)(C)C | C20H39NOSi
reactant | triethylamine | 0.1 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | 3-[1-(Acetamido)tridecyl]-5-trimethylsilylfuran | C(C)(=O)NC(CCCCCCCCCCCC)C1=COC(=C1)[Si](C)(C)C | C22H41NO2Si
